US08258128B2
Preparation of 7-Chloro-10-methoxy-3-thia-9-aza-benzo[f]azulen-4-one
A 4-necked, round-bottomed flask, equipped with a mechanical stirrer, digital thermometer, addition funnel and a condenser with nitrogen inlet-outlet is charged with 7-Chloro-9H-3-thia-9-aza-benzo[f]azulene-4,10-dione (559.6 g), toluene (6.8 kg) and dimethylformamide (100.73 g). To the stirred suspension phosphorus oxychloride (357.2 g) is added over 5 min at 20-25° C. The pipes are flushed with toluene (774 g), then the temperature is raised to 108° C. over 1 hour and stirring continued for about 5 hours. Then the mixture is cooled to −5° C. and a 30% solution of sodium methylate (1.43 kg) is added over 30 min at −5° C. After addition the mixture is warmed to 40° C. over an hour and the solvent is distilled at 20-45° C. under reduced pressure. To the residue deionized water (6.7 kg) is added and the mixture is concentrated under reduced pressure to 7 L. Then heptane (3.06 kg) is added and the temperature is raised to 70° C. over 1 hour, followed by additional stirring of 10 min. The suspension is then cooled to 0° C. and the solid is collected by filtration, washed with heptane (2×383 g) and deionized water (2×1.1 kg) and dried under vacuum at 65° C. to yield the title compound with a melting point of >195-197° C.

reactant | 7-Chloro-9H-3-thia-9-aza-benzo[f]azulene-4,10-dione | 559.6 g | ClC1=CC2=C(C(C=3SC=CC3C(N2)=O)=O)C=C1 | C12H6ClNO2S
reactant | toluene | 6.8 kg | C1(=CC=CC=C1)C | C7H8
reactant | phosphorus oxychloride | 357.2 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | dimethylformamide | 100.73 g | CN(C=O)C | C3H7NO
product | 7-Chloro-10-methoxy-3-thia-9-aza-benzo[f]azulen-4-one | ClC1=CC2=C(C(C=3SC=CC3C(=N2)OC)=O)C=C1 | C13H8ClNO2S
